US03985883
To a flask containing 33.6 g. of magnesium and a few crystals of iodine, is added 50 to 70 ml. of a solution of 300 g. of 4-bromodiphenyl ether in 500 ml. of absolute tetrahydrofuran. The remainder of the solution is added as needed to maintain a gentle reflux and the resulting mixture heated to reflux for 30 minutes. The resulting mixture is then added to a solution of trimethylacetyl chloride in 500 ml. of absolute tetrahydrofuran at a rate so as to maintain a temperature of from 40° to 50° C. The resulting mixture is then stirred at ambient temperature for 1 hour. 200 ml. of 2N. hydrochloric acid is then added. The organic layer is washed twice with 1 liter of 2N. sodium carbonate solution, dried and evaporated in vacuo to a liquid. The liquid thus obtained is distilled under reduced pressure to obtain p-phenoxypivalophenone, b.p. 136°-139° C. at 0.1 mm/Hg.

reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromodiphenyl ether | C1=CC=C(C=C1)OC2=CC=C(C=C2)Br | C12H9BrO
reactant | trimethylacetyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-phenoxypivalophenone | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(C)(C)C)=O | C17H18O2
